US04533664
8.5 g (30 mmols) of methyl 2-ethyl-4-hydroxy-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide and 3.9 g (30 mmols) of 2-amino-6-chloro-pyrazine were reacted in 600 ml of xylene and worked up analogous to Example 1, yielding 7.3 g (64% of theory) of N-(6-chloro-pyrazin-2-yl)-2-ethyl-4-hydroxy-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide.

reactant | methyl 2-ethyl-4-hydroxy-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 30 mmols, 8.5 g | C(C)N1S(C2=C(C(=C1C(=O)OC)O)C=CC=C2)(=O)=O | C12H13NO5S
reactant | 2-amino-6-chloro-pyrazine | 30 mmols, 3.9 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
solvent | xylene | 600 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(6-chloro-pyrazin-2-yl)-2-ethyl-4-hydroxy-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 7.3 g, 64% | ClC1=CN=CC(=N1)NC(=O)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)CC | C15H13ClN4O4S
